US05312924
Ethyl 2-ethoxy-4-[N-(α-ethoxymethyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate
Ethyl 2-ethoxy-4-[N-(α-hydroxymethyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate (0.64 g, 1.4 mmol) is added with stirring at ambient temperature to sodium hydride (0.061 g, 1.4 mmol) (55% in oil) in absolute tetrahydrofuran (6.4 ml). The mixture is stirred for 1 hour, then ethyl iodide (0.113 ml, 1.4 mmol) is added and the mixture is stirred for a further 16 hours at ambient temperature. Then ethanol (2 ml) is added and the mixture is evaporated down in vacuo. The evaporation residue is partitioned between chloroform and water. The organic phase is washed twice with water, dried, filtered and concentrated by evaporation in vacuo. The evaporation residue is purified by column chromatography on silica gel (chloroform/acetone=17/3).

reactant | Ethyl 2-ethoxy-4-[N-(α-hydroxymethyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate | 1.4 mmol, 0.64 g | C(C)OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)CO | C26H34N2O5
reactant | sodium hydride | 1.4 mmol, 0.061 g | [H-].[Na+]
reactant | ethyl iodide | 1.4 mmol, 0.113 ml | C(C)I | C2H5I
reactant | ethanol | 2 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 6.4 ml | O1CCCC1 | C4H8O
product | Ethyl 2-ethoxy-4-[N-(α-ethoxymethyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate | C(C)OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)COCC | C28H38N2O5
